US06355799B1
Preparation of 1-(4-chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5-oxo-5H-tetrazole (Compound no. 5-4)
1-(4-Chloro-2-fluoro-5-hydroxyphenyl)-4-(3-fluoropropyl)-tetrazolinone (2.91 g) was gradually added into an ice-cooled nitric acid (20 ml) and stirred for 30 minutes. Crushed ice was added followed by extraction with ethyl acetate. The ethyl acetate extract was washed with water, dried over sodium sulfate, concentrated, and filtered through a silica gel SPE column (2 g) to give the title compound as a yellow solid (3.4 g).

reactant | 1-(4-Chloro-2-fluoro-5-hydroxyphenyl)-4-(3-fluoropropyl)-tetrazolinone | 2.91 g | ClC1=CC(=C(C=C1O)N1N=NN(C1=O)CCCF)F | C10H9ClF2N4O2
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | 1-(4-chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-4-(3-fluoropropyl)-1,4-dihydro-5-oxo-5H-tetrazole | 3.4 g | ClC1=C(C(=C(C(=C1)F)N1N=NN(C1=O)CCCF)[N+](=O)[O-])O | C10H8ClF2N5O4
